US05824811
5-Hydroxy-5-methyl-1-hexanethiol
Under an argon atmosphere, to a solution of methyl magnesium bromide (0.99M solution in tetrahydrofuran, 70 ml, 69.3 mmol) in dry tetrahydrofuran (80 ml) was added a solution of ethyl 5-bromovalerate (3.66 ml, 23.1 mmol) in dry tetrahydrofuran (10 ml) dropwise at 0° C., and the mixture was stirred at room temperature for 1.5 hour, then quenched with an aqueous saturated ammonium chloride solution, poured into water and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give crude 6-bromo-2-methyl-2-hexanol (5.28 g). This crude product was dissolved into acetone (80 ml) and potassium thioacetate (3.96 g, 34.7 mmol) was added. The mixture was stirred at room temperature for 1.5 hour and filtered, then the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate: 4:1) to give 6-acetylthio-2-methyl-2-hexanol (3.75 g). Thus obtained 6-acetylthio-2-methyl-2-hexanol was dissolved into tetrahydrofuran (130 ml) and lithium aluminum hydride (2.24 g, 59.0 mmol) was added by portions at 0° C. After this suspension was stirred at room temperature for 1.5 hour, excessive lithium aluminium hydride was treated with ethyl acetate and the reaction solution was acidified with 4N hydrochloric acid. The solution was extracted with ethyl acetate, and the organic layer was washed with brine, dried over magnesium sulfate, then the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to give the title compound (2.95 g, 3 steps, 85%).

reactant | 6-acetylthio-2-methyl-2-hexanol | C(C)(=O)SCCCCC(C)(O)C | C9H18O2S
reactant | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 59.0 mmol, 2.24 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Hydroxy-5-methyl-1-hexanethiol | 2.95 g, 85% | OC(CCCCS)(C)C | C7H16OS
